US07446102B2
tert-Butyl{(3S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutyl}carbamate
Preparation takes place in analogy to Example 83A from 300 mg (0.60 mmol) of (2S)-2,4-bis[(tert-butoxycarbonyl)amino]butanoic acid-N-cyclohexylcyclohexanamine (1:1) in 10 ml of tetrahydrofuran with 61 mg (0.60 mmol) of 4-methylmorpholine, 65 mg (0.60 mmol) of ethyl chloroformate and 1.2 ml (1.20 mmol) of a 1M solution of lithium aluminum hydride in tetrahydrofuran. The product is reacted without further purification.

reactant | (2S)-2,4-bis[(tert-butoxycarbonyl)amino]butanoic acid N-cyclohexylcyclohexanamine | 0.60 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCNC(=O)OC(C)(C)C.C1(CCCCC1)NC1CCCCC1
reactant | 4-methylmorpholine | 0.60 mmol, 61 mg | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.60 mmol, 65 mg | ClC(=O)OCC | C3H5ClO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl{(3S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutyl}carbamate | C(C)(C)(C)OC(NCC[C@@H](CO)NC(=O)OC(C)(C)C)=O | C14H28N2O5
